* Simple circuit for Bayesian optimization demo

* Input voltage
V1 N001 0 DC 5

* Load resistor (THIS WILL BE OPTIMIZED)
R1 N003 N002 100

* Small test network
R2 N002 0 1k
R3 N003 N001 1k

* Simple current measurement point
* Current through R1 is used in optimization

.tran 0 1m

.backanno
.end